US08309734B2
[2-(2,5-Dichloro-phenoxy)-5-fluoro-pyridin-3-yl]-(2-methyl-3,4-dihydro-2H-quinolin-1-yl)-methanone
A solution of 2-(2,5-dichloro-phenoxy)-5-fluoro-nicotinic acid (36.3 mg, 0.12 mmol, 1.0 equiv) in thionyl chloride (492 mg, 300 μL, 4.14 mmol, 34.5 equiv; [CAS RN 7719-09-7]) was heated to 100° C. over night. The reaction mixture was concentrated under reduced pressure, remaining thionyl chloride removed by azotropic distillation with toluene and the residue dissolved in anhydrous DMF (1 mL). To this solution was added N-ethyldiisopropylamine (155 mg, 204 μL, 1.20 mmol, 10.0 equiv; [CAS RN 7087-68-5]) and 2-methyl-1,2,3,4-tetrahydro-quinoline (22.1 mg, 0.15 mmol, 1.25 equiv; [CAS RN 1780-19-4]) and the reaction mixture heated by microwave irradiation to 120° C. for 15 min. Removal of the solvent mixture under reduced pressure and purification by preparative HPLC on reversed phase (Xterra® PrepMSC 18, 5 μm, 19×50 mm column equipped with a Gilson Liquid Handler 215 autosampler, two Rainin Dynamax® SD-300 pumps, a Sedex ELSD 75 lightscatter and a Dionex UVD 340S UV detector) eluting with a gradient of acetonitrile/water provided 11.5 mg (22%) of the title compound. MS (ISP): 430.8 [M+H]+.

reactant | 2-(2,5-dichloro-phenoxy)-5-fluoro-nicotinic acid | 0.12 mmol, 36.3 mg, 1.0 equiv | ClC1=C(OC2=C(C(=O)O)C=C(C=N2)F)C=C(C=C1)Cl | C12H6Cl2FNO3
reactant | thionyl chloride | 4.14 mmol, 300 μL, 492 mg, 34.5 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | N-ethyldiisopropylamine | 1.20 mmol, 204 μL, 155 mg, 10.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methyl-1,2,3,4-tetrahydro-quinoline | 0.15 mmol, 22.1 mg, 1.25 equiv | CC1NC2=CC=CC=C2CC1 | C10H13N
product | [2-(2,5-Dichloro-phenoxy)-5-fluoro-pyridin-3-yl]-(2-methyl-3,4-dihydro-2H-quinolin-1-yl)-methanone | 11.5 mg, 22% | ClC1=C(OC2=NC=C(C=C2C(=O)N2C(CCC3=CC=CC=C23)C)F)C=C(C=C1)Cl | C22H17Cl2FN2O2
